US05519034
A solution of 7-benzyloxy-1-[1-(2-chlorophenyl)cyclopropyl]-6-methoxy-3,4-dihydroisoquinoline (0.5 g, prepared in a similar manner to that described in Example CA281) in dichloromethane (10 ml) was added dropwise at -40° C. to a stirred solution of sodium tris[N-(2-methylpropyloxycarbonyl)prolyloxy]borohydride (2.43 g) in dichloromethane (10 ml). The mixture was allowed to reach ambient temperature and was stirred for 49 hours. Dilute sulphuric acid (10 ml, 10% v/v) was added, and stirring continued for 1 hour. The mixture was basified by addition of saturated aqueous sodium carbonate solution. The organic layer was washed with brine, dried over magnesium sulphate and the solvent removed in vacuo to yield 7-benzyloxy-1-[1-(2-chlorophenyl)cyclopropyl]-6-methoxy-1,2,3,4-tetrahydroisoquinoline as a gum (0.42 g). This product was shown to have a 92% enantiomeric excess of one of the enantiomers.

reactant | 7-benzyloxy-1-[1-(2-chlorophenyl)cyclopropyl]-6-methoxy-3,4-dihydroisoquinoline | C(C1=CC=CC=C1)OC1=C(C=C2CCN=C(C2=C1)C1(CC1)C1=C(C=CC=C1)Cl)OC | C26H24ClNO2
reactant | sodium tris[N-(2-methylpropyloxycarbonyl)prolyloxy]borohydride | 2.43 g | CC(COC(=O)N1[C@H](C(=O)O[BH-](OC([C@H]2N(CCC2)C(=O)OCC(C)C)=O)OC([C@H]2N(CCC2)C(=O)OCC(C)C)=O)CCC1)C.[Na+]
reactant | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 7-benzyloxy-1-[1-(2-chlorophenyl)cyclopropyl]-6-methoxy-1,2,3,4-tetrahydroisoquinoline | 0.42 g | C(C1=CC=CC=C1)OC1=C(C=C2CCNC(C2=C1)C1(CC1)C1=C(C=CC=C1)Cl)OC | C26H26ClNO2
